US04921852
To a solution of (2S,4R)-2-(imidazol-2-yl)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (1.0 g) in a mixture of water (10 ml) and tetrahydrofuran (20 ml) was dropwise added a solution of 4-nitrobenzyloxycarbonyl chloride (0.85 g) in tetrahydrofuran (5 ml) under ice-cooling with stirring, keeping the pH between 9 and 10 with 4N aqueous sodium hydroxide. The mixture was stirred under the same condition for 1 hour, extracted with ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated to give (2S,4R)-4-hydroxy-2-[N-(4-nitrobenzyloxycarbonyl)imidazol-2-yl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (970 mg).

reactant | (2S,4R)-2-(imidazol-2-yl)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 1.0 g | N1C(=NC=C1)[C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H16N4O5
reactant | 4-nitrobenzyloxycarbonyl chloride | 0.85 g | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2S,4R)-4-hydroxy-2-[N-(4-nitrobenzyloxycarbonyl)imidazol-2-yl]-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 970 mg | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C=1N(C=CN1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C23H21N5O9
